US08492582B2
Phenylboranic acid (88 mg), tripotassium phosphate (0.28 g), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (2.5 mg), and palladium(II) acetate (2.7 mg) were added to a toluene (3.0 mL) suspension of N-(5-chloro-2-cyanophenyl)-5-phenylpyridine-3-carboxamide (0.20 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (2.5 mg) and palladium(II) acetate (2.7 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 6 hours. After cooling the reaction mixture to room temperature, ethyl acetate and a 10% aqueous solution of citric acid were added thereto, and the insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.23 g of N-(2-cyano-5-phenylphenyl)-5-phenylpyridine-3-carboxamide as a light yellow solid.

reactant | Phenylboranic acid | 88 mg | C1(=CC=CC=C1)OB=O | C6H5BO2
reactant | tripotassium phosphate | 0.28 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N-(5-chloro-2-cyanophenyl)-5-phenylpyridine-3-carboxamide | 0.20 g | ClC=1C=CC(=C(C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)C#N | C19H12ClN3O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | palladium(II) acetate | 2.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 2.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 2.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 2.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-cyano-5-phenylphenyl)-5-phenylpyridine-3-carboxamide | 0.23 g | C(#N)C1=C(C=C(C=C1)C1=CC=CC=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C25H17N3O
